US07355052B2
Stage 4: tert-butyl 3-[(2-amino-5-{[bis(3-methylbutyl)amino]carbonyl}phenyl)amino]propylcarbamate
Tert-butyl 3-[(5-{[bis(3-methylbutyl)amino]carbonyl}-2-nitrophenyl)amino]propylcarbamate (1.65 g) in solution in a mixture of ethyl acetate/ethanol 2:1 (130 ml), and 10% palladium on carbon (165 mg) are introduced into an autoclave. After stirring for 3 hours under a hydrogen atmosphere (3 bar) at a temperature of approximately 20° C., the catalyst is eliminated by filtration on celite and the filtrate is concentrated under reduced pressure at 40° C. in order to produce the expected compound in the form of an oil (1.35 g; 89% yield).

reactant | Tert-butyl 3-[(5-{[bis(3-methylbutyl)amino]carbonyl}-2-nitrophenyl)amino]propylcarbamate | 1.65 g | CC(CCN(C(=O)C=1C=CC(=C(C1)NCCCNC(OC(C)(C)C)=O)[N+](=O)[O-])CCC(C)C)C | C25H42N4O5
solvent | ethyl acetate ethanol | 130 ml | C(C)(=O)OCC.C(C)O
catalyst | palladium on carbon | 165 mg | [Pd] | Pd
product | tert-butyl 3-[(2-amino-5-{[bis(3-methylbutyl)amino]carbonyl}phenyl)amino]propylcarbamate | 89% yield | NC1=C(C=C(C=C1)C(=O)N(CCC(C)C)CCC(C)C)NCCCNC(OC(C)(C)C)=O | C25H44N4O3
